Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Back and leg pain
 
Major Surgical or Invasive Procedure:
Anterior/posterior lumbar fusion with instrumentation L4-S1

 
History of Present Illness:
Ms. ___ has a long history of back and leg pain.  She has 
attepmpted conservative therapy including physical therapy and 
has failed.  She now presents for surgical intervention.
 
Past Medical History:
Hi chol

 
Social History:
___
Family History:
N/C
 
Physical Exam:
NAD
RRR
CTA B
Abd soft NT/ND
BUE- good strength at biceps, triceps, wrist extension and 
flexion, finger extension and flexion and intrinsics; sensation 
intact in all dermatomes; reflexes intact at biceps, triceps and 
brachioradialis
BLE-  good strength at hip flexion and 
extension/abduction/adduction, knee flexion and extension, ankle 
dorsiflexion and plantar flexion, decreased ___ sensation 
intact distally; reflexes diminished at Achilles; + sciatica
 
Pertinent Results:
___ 06:00AM BLOOD WBC-15.5* RBC-2.90* Hgb-8.5* Hct-26.3* 
MCV-91 MCH-29.2 MCHC-32.1 RDW-12.6 Plt ___
___ 05:55AM BLOOD WBC-15.3* RBC-3.65* Hgb-10.6* Hct-31.7* 
MCV-87 MCH-29.0 MCHC-33.3 RDW-12.8 Plt ___
___ 05:55AM BLOOD Glucose-114* UreaN-9 Creat-0.9 Na-138 
K-4.6 Cl-99 HCO3-32 AnGap-12
 
Brief Hospital Course:
Ms. ___ was admitted to the service of Dr. ___ for 
a circumfrential fusion L4-S1.  She was informed and consented 
for the procedure and elected to proceed.  Please see Operative 
Note for procedure in detail.
Post-operatively she was administered antibiotics and pain 
medication.  Her catheter and drain were removed POD 3 and 2 
respectively and she was able to take PO's.  Her pain was well 
controlled and she remained afebrile throughout her hosptial 
course.  She will return to clinic in ten days.  She was 
discharged in good condition.

 
Medications on Admission:
Iron
Simvastatin
Sumatriptan
 
Discharge Medications:
1. Oxycodone 20 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO Q12H (every 12 hours).
Disp:*60 Tablet Sustained Release 12 hr(s)* Refills:*0*
2. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed.
Disp:*100 Tablet(s)* Refills:*0*
3. Cyclobenzaprine 10 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) as needed.
Disp:*90 Tablet(s)* Refills:*0*
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
5. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
6. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L4-S1 disc degeneration and spondylosis
Post-operative anemia

 
Discharge Condition:
Good

 
Discharge Instructions:
Please continue to take your pain medication with an over the 
counter laxative.  Call the clinic if you notice any redness or 
discharge from the incision site.  Call the clinic for any 
additional concerns.

Physical Therapy:
Activity:  Activity as tolerated
Lumbar corset for ambulation; may be out of bed to chair 
without.

Treatments Frequency:
Please continue to change the dressings with dry, sterile gauze.
 
Followup Instructions:
___